US08372823B2
Methyl (E)-3-(4-nitrophenyl)acrylate (S31).
A solution of p-nitrocinnamic acid (3.86 g, 20.0 mmol) in MeOH (50 mL) was treated with H2SO4 (2 mL) and was stirred at 25° C. for 24 h. Concentration afforded S31 (4.10 g, 19.8 mmol, 99%) as a yellow solid: 1H NMR (CDCl3, 500 MHz) 8.26 (d, 2H, J=8.4 Hz), 7.12 (d, 1H, J=16.1 Hz), 7.68 (d, 2H, J=8.8 Hz), 6.58 (d, 1H, J=16.1 Hz), 3.85 (s, 3H).

reactant | p-nitrocinnamic acid | 20.0 mmol, 3.86 g | [N+](=O)([O-])C1=CC=C(C=CC(=O)O)C=C1 | C9H7NO4
reactant | H2SO4 | 2 mL | OS(=O)(=O)O | H2O4S
reactant | MeOH | 50 mL | CO | CH4O
product | Methyl (E)-3-(4-nitrophenyl)acrylate | [N+](=O)([O-])C1=CC=C(C=C1)/C=C/C(=O)OC | C10H9NO4
